US07888503B2
A round-bottomed flask was charged with [5-(2-amino-4-pyrimidinyl)-2-fluorophenyl]-(phenyl)methanol and dissolved in methylene chloride (10 mL). The resulting solution was treated with Dess-Martin periodinane and stirred at room temperature for 30 min. The reaction was quenched with a saturated solution of sodium bicarbonate, then the organic layer was removed, dried over magnesium sulfate and concentrated. The residue was purified by silica gel chromatography to provide [5-(2-amino-4-pyrimidinyl)-2-fluorophenyl](phenyl)methanone (30 mg) as a white powder. H1 NMR (d6-dmso): 8.28-8.36 (m, 2H), 8.27 (dd, 1H), 7.79 (d, 2H), 7.70 (t, 1H), 7.56 (t, 2H), 7.50 (dd, 1H), 7.17 (d, 1H), 6.71 (br s, 2H). Mass (ES+)=294.1 (100%).

reactant | [5-(2-amino-4-pyrimidinyl)-2-fluorophenyl]-(phenyl)methanol | NC1=NC=CC(=N1)C=1C=CC(=C(C1)C(O)C1=CC=CC=C1)F | C17H14FN3O
reactant | Dess-Martin periodinane | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | [5-(2-amino-4-pyrimidinyl)-2-fluorophenyl](phenyl)methanone | 30 mg | NC1=NC=CC(=N1)C=1C=CC(=C(C1)C(=O)C1=CC=CC=C1)F | C17H12FN3O
